US09024041B2
Intermediate A29: 3-(Adamantan-1-yl)-1-p-tolyl-1H-pyrazol-5-amine
To a solution of acetonitrile (200 μL, 160 mg, 1.60 mmol) in THF (10 mL) at RT was added a solution of potassium 2-methylbutan-2-olate in toluene (1.7 M, 6.7 mL, 11 mmol) followed by the dropwise addition of ethyl adamantane-1-carboxylate (798 mg, 3.8 mmol) and the reaction mixture maintained at RT for 16 hr. The resulting mixture was concentrated in vacuo to a volume of ˜10 mL and was then diluted with EtOH (10 mL), treated with p-tolylhydrazine hydrochloride (607 mg, 3.83 mmol) and was acidified to pH 1 by the addition of conc hydrochloric acid. The resulting heterogeneous mixture was heated to 70° C. for 2 hr, was cooled to RT and concentrated in vacuo to a volume of ˜10 mL. The mixture was diluted with water (30 mL) and was adjusted to pH 12 by the addition of 2M aq NaOH and was then extracted with EtOAc (2×20 mL). The combined organic extracts were washed with brine (30 mL), dried, and then evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, EtOAc in isohexane, 0-50%, gradient elution) and the impure product so obtained was triturated with isohexane (20 mL) to afford the title compound, Intermediate A29, as an impure beige solid (730 mg, 65% purity, 40%) containing approximately 35% w/w 3-(adamantan-1-yl)-3-oxopropanenitrile; Rt 4.92 min (Method 1 basic); m/z 308 (M+H)+, (ES+). This material was used in subsequent steps without further purification.

reactant | acetonitrile | 1.60 mmol, 200 μL, 160 mg | C(C)#N | C2H3N
reactant | potassium 2-methylbutan-2-olate | CC(C)(CC)[O-].[K+]
reactant | toluene | 11 mmol, 1.7 M, 6.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl adamantane-1-carboxylate | 3.8 mmol, 798 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC | C13H20O2
reactant | p-tolylhydrazine hydrochloride | 3.83 mmol, 607 mg | Cl.C1(=CC=C(C=C1)NN)C
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(Adamantan-1-yl)-1-p-tolyl-1H-pyrazol-5-amine | C12(CC3CC(CC(C1)C3)C2)C2=NN(C(=C2)N)C2=CC=C(C=C2)C | C20H25N3
